Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
clindamycin / ECG electrodes
 
Attending: ___.
 
Chief Complaint:
Dyspnea on exertion 
 
Major Surgical or Invasive Procedure:
___ - Aortic valve replacement 21 mm ___ 
___ mechanical valve.  Mitral valve replacement, 27 mm ___. 
___ ___ mechanical valve.
 
History of Present Illness:
Mr. ___ is a very nice ___ year old man with a history of 
aortic stenosis, hypertension, mitral stenosis, and current 
tobacco use. He has been followed closely with serial 
echocardiograms which have demonstrated increased valve 
gradients. His most recent echocardiogram in ___ demonstrated 
severe aortic stenosis with peak and mean gradients of 90 mmHg
and 50 mmHg, respectively. There was also severe (4+) aortic 
insufficiency. There was moderate mitral annular calcification 
with moderate functional mitral stenosis. Given the progression 
of his valvular disease he met with Dr. ___ in clinic and 
agreed to proceed with surgery. Mr. ___ continues to deny 
any significant cardiac symptoms other than mild dyspnea on 
exertion with walking up the stairs. He denied syncope, 
dizziness, lightheadedness, shortness of breath at rest, chest 
pain, palpitations, orthopnea, paroxysmal nocturnal dyspnea, or 
lower extremity edema. He quit smoking approximately one month 
ago with nicotine patches. His PCP prescribed ___ for preop 
anxiety but he has not used it. He presented today for cardiac 
catheterization and PAT completion prior to valve surgery in the 
AM. 
 
Past Medical History:
Anal Fissure
Aortic Insufficiency
Aortic Stenosis
Hypertension
Mitral Stenosis
Osteoarthritis (right hip)
Tobacco Abuse

 
Social History:
___
Family History:
Father - died at age ___ of likely MI, full details unknown
Mother - died of a stroke
 
Physical Exam:
Admission Physical Exam:
___ ___ Temp: 98.3 PO BP: 154/74 HR: 67 RR: 18 O2 sat: 97%
O2 delivery: RA Dyspnea: 1 RASS: 0 Pain Score: ___ 
Height: 62 in  Weight: 181 lbs   BSA: 1.83 m2

General: Pleasant man, WDWN, NAD
Skin: Warm, dry, intact
HEENT: NCAT, PERRL, EOMI, OP benign 
Neck:  Supple, full ROM 
Chest: Lungs clear bilaterally  
Heart: Regular rate and rhythm, III/VI SEM at LUSB and II/VI 
diastolic murmur
Abdomen: Normal BS, soft, non-distended, non-tender
Extremities: Warm, well-perfused, trace edema
Varicosities: superficial 
Neuro: Grossly intact 
Pulses:
DP           Right: 2+  Left: 2+
___           Right: 2+  Left: 2+
Radial       Right: 2+  Left: 2+
Carotid Bruit: transmitted murmur vs. bruit

Discharge Exam:
VS: T  97.8  HR 82 SR  BP 107/75   RR 16  O2sat 92% RA
Wt 85.5 kg  Pre-op Wt 82.1 kg

General: NAD [x]  
Neurological: A/O x3 [x] non-focal [x] 
HEENT:  PEERL [x] 
Cardiovascular: RRR [x]  + mechanical valve click [x]
Respiratory: CTA w/diminished bases [x].  No resp distress [x]
GI/Abdomen: Bowel sounds present [x] Soft [x] ND [x] NT [x]
Extremities: 
Right Upper extremity   Warm [x]  Edema  0
Left Upper extremity    Warm [x]  Edema  0
Right Lower extremity   Warm [x]  Edema trace
Left Lower extremity    Warm [x]  Edema trace
Pulses:
DP             Right: + 1     Left:+1
___             Right: + 1     Left:+1
Radial         Right: + 1     Left:+1
Skin/Wounds: Dry [x] intact [x]
Sternal: CDI [x] no erythema or drainage [x]
                 Sternum stable [x]

 
Pertinent Results:
Admission Labs:
___ 01:30PM   ___ PTT-27.0 ___
___ 01:30PM   PLT COUNT-255
___ 01:30PM   WBC-5.9 RBC-4.23* HGB-12.4* HCT-37.4* MCV-88 
MCH-29.3 MCHC-33.2 RDW-12.6 RDWSD-40.4
___ 01:30PM   %HbA1c-5.8 eAG-120
___ 01:30PM   ALBUMIN-4.6 CALCIUM-9.8 PHOSPHATE-3.7 
MAGNESIUM-2.1
___ 01:30PM   ALT(SGPT)-26 AST(SGOT)-21 LD(LDH)-222 ALK 
PHOS-30* TOT BILI-0.5
___ 01:30PM   GLUCOSE-94 UREA N-17 CREAT-0.8 SODIUM-135 
POTASSIUM-4.8 CHLORIDE-96 TOTAL CO2-29 ANION GAP-10
___ 02:08PM URINE  RBC-2 WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 02:08PM URINE  BLOOD-TR* NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 02:08PM URINE  COLOR-Straw APPEAR-Clear SP ___

Discharge Labs:
___ 04:43AM BLOOD WBC-8.9 RBC-3.16* Hgb-9.3* Hct-28.7* 
MCV-91 MCH-29.4 MCHC-32.4 RDW-13.1 RDWSD-43.2 Plt ___
___ 04:43AM BLOOD ___ PTT-75.6* ___
___ 04:43AM BLOOD Glucose-150* UreaN-14 Creat-0.8 Na-137 
K-4.4 Cl-94* HCO3-31 AnGap-12

Cardiac Catheterization ___
right dominant.
LMCA: normal 
LAD: large caliber vessel; no stenosis 
LCx: large caliber vessel; no stenosis 
RCA: large caliber vessel; no stenosis 
Findings
• Elevated left heart filling pressure.
• No angiographically apparent coronary artery disease.
• Mean aortic gradient of 56 mmHg

Transesophageal Echocardiogram ___
Pre-bypass:
The left atrium is mildly dilated. No spontaneous echo contrast 
is seen in the left atrial appendage. No thrombus is seen in the 
left atrial appendage. No atrial septal defect is seen by 2D or 
color Doppler. There is moderate symmetric left ventricular 
hypertrophy. The left ventricular cavity size is normal. Overall 
left ventricular systolic function is normal (LVEF>55%). Right 
ventricular chamber size and free wall motion are normal. The 
aortic valve is bicuspid. The aortic valve leaflets are severely 
thickened/deformed. There is severe aortic valve stenosis (valve 
area <1.0cm2). Severe (4+) aortic regurgitation is seen. The 
mitral valve shows characteristic rheumatic deformity. There is 
moderate (by PHT/mean) to severe (by PISA) valvular mitral 
stenosis. Moderate (2+) mitral regurgitation is seen. There is 
thickening and calcification of both mitral valves, especially 
the A2 scallop. There is no pericardial effusion. Intrinsic LV 
function may be more depressed given the valvular lesions above.
Post-bypass:
The patient is s/p mitral valve replacement and aortic valve 
replacement and paced on a norepinephrine infusion.
1) LV function now slightly more depressed in the setting of 
inotropic support.
2) There is a well-seated mechanical mitral valve no PVL and 8 
peak/4 mean gradients.
3) There is a well-seated mechanical aortic valve no PVL and 22 
peak/10 mean gradients.
4) Other valvular function unchanged.
5) All visualized portions of aorta intact. 
 
Radiology Report CHEST (PORTABLE AP) Study Date of ___ 
10:02 AM 
Final Report:    
Comparison to ___.  In the interval, pre-existing 
minimal 
pleural effusions have increased in extent and are now moderate. 
 The cause moderate bilateral basilar atelectasis.  The size of 
the cardiac silhouette has decreased.  There are no signs 
indicative of pulmonary edema.  No pneumonia.  Stable correct 
alignment of the sternal wires.   
___, MD, PhD electronically signed ___ 
11:05 AM 
 
 
Brief Hospital Course:
Admitted 1 day before surgery for cardiac catheterization that 
reveal no significant coronary disease. He remained 
hemodynamically stable overnight and was taken to the operating 
room on ___. He underwent aortic and mitral valve 
replacements. Please see operative note for full details. In 
summary he had: Aortic valve replacement 21 mm ___ 
___ mechanical valve, and Mitral valve replacement, 27 mm ___. 
___ mechanical valve. He was transfused 
platlets, FFPs and PRBCs intraoperatively to correct 
coagulopathy. He tolerated the procedure well and was 
transferred to the CVICU in stable condition for recovery and 
invasive monitoring. On the morning of POD1 he weaned from 
sedation, awoke neurologically intact and was extubated. He was 
weaned from inotropic and vasopressor support. Beta blocker was 
initiated and he was diuresed toward his preoperative weight. 
Coumadin was initiated for anticoagulation of dual mechanical 
valves. He had acute blood loss anemia and was transfused PRBCs. 
He remained hemodynamically stable and was transferred to the 
telemetry floor for further recovery.  All tubes, lines, and 
drains were removed per cardiac surgery protocols without 
complication. Once on the stepdown floor he worked with nursing 
and was evaluated by the physical therapy service for assistance 
with strength and mobility. By the time of discharge on POD 8 he 
was ambulating freely, the wound was healing, and pain was 
controlled with oral analgesics. He was discharged home with 
visiting nurses in good condition with appropriate follow up 
instructions.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 20 mg PO QPM 
2. Lisinopril 40 mg PO DAILY 
3. LORazepam 0.25 mg PO Q4H:PRN anxiety 
4. Metoprolol Succinate XL 50 mg PO DAILY 
5. Aspirin 81 mg PO DAILY 
6. Nicotine Patch 21 mg/day TD DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H  
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
3.  Furosemide 20 mg PO BID 
BID x7days ___ 
daily x7 days 
RX *furosemide 20 mg 1 tablet(s) by mouth twice a day Disp #*21 
Tablet Refills:*0 
4.  Metoprolol Tartrate 75 mg PO TID 
RX *metoprolol tartrate 75 mg 1 tablet(s) by mouth every eight 
(8) hours Disp #*90 Tablet Refills:*1 
5.  Potassium Chloride 20 mEq PO Q12H 
BID x7 days ___
daily x7 days 
RX *potassium chloride 20 mEq 1 tablet(s) by mouth twice a day 
Disp #*21 Tablet Refills:*0 
6.  Ranitidine 150 mg PO BID 
RX *ranitidine HCl 150 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*1 
7.  Senna 17.2 mg PO DAILY 
RX *sennosides [senna] 8.6 mg 2 tabs by mouth once a day Disp 
#*60 Tablet Refills:*0 
8.  TraMADol 50 mg PO Q4H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *tramadol 50 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*75 Tablet Refills:*0 
9.  ___  MD to order daily dose PO DAILY 
RX *warfarin [Coumadin] 2 mg as directed tablet(s) by mouth once 
a day Disp #*100 Tablet Refills:*0 
10.  Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*1 
11.  Aspirin 81 mg PO DAILY  
12.  Atorvastatin 20 mg PO QPM  
13.  Fluocinolone Acetonide 0.01% Cream 1 Appl TP BID:PRN 
perineal irritation  
14.  LORazepam 0.25 mg PO Q4H:PRN anxiety  
15.  Nicotine Patch 21 mg/day TD DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Primary:
Rheumatic Heart Disease
Aortic Insufficiency
Aortic Stenosis s/p AVR
Mitral Regurgitation s/p MVR
Acute Blood Loss Anemia

Secondary:
Anal Fissure
Hypertension
Osteoarthritis (right hip)
Pulmonary Hypertension 
Tobacco Abuse

 
Discharge Condition:
Alert and oriented x3 nonfocal
Ambulating, gait steady
Sternal pain managed with oral analgesics
Sternal Incision - healing well, no erythema or drainage
Edema-trace bilat ___

 
Discharge Instructions:
Please shower daily -wash incisions gently with mild soap, no 
baths or swimming, look at your incisions daily
Please - NO lotion, cream, powder or ointment to incisions
Each morning you should weigh yourself and ___ in the evening 
take your temperature, these should be written down on the chart
No driving for one month or while taking narcotics
Clearance to drive will be discussed at follow up appointment 
with surgeon
No lifting more than 10 pounds for 10 weeks
Encourage full shoulder range of motion, unless otherwise 
specified
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 
Followup Instructions:
___